US08404859B2
Preparation of 6,6-Diethoxy-hex-4-yn-3-one
6,6-Diethoxy-hex-4-yn-3-ol (4.30 g, 23.1 mmol) was dissolved in dichloromethane (200 ml) and treated with activated MnO2 (50 g) at rt for 15 h. The reaction mixture was filtered through a plug of celite and Na2SO4. The filtrated was concentrated under reduced pressure and purified by flash chromatography with 0-20% EtOAc in hexane to afford the desired product (1.46 g, 34% yield).

reactant | 6,6-Diethoxy-hex-4-yn-3-ol | 23.1 mmol, 4.30 g | C(C)OC(C#CC(CC)O)OCC | C10H18O3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | MnO2 | 50 g | O=[Mn]=O
product | 6,6-Diethoxy-hex-4-yn-3-one | 1.46 g, 34% yield | C(C)OC(C#CC(CC)=O)OCC | C10H16O3
